US08314091B2
B: N-tert-Butyl-3-((4-(3-chloro-4-(3-cyclobutylureido)benzoyl)piperazin-1-yl)methyl)benzamide
3-((4-(4-Amino-3-chlorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (200 mg, 0.466 mmol) and 4-nitrophenylchloroformate (94 mg, 0.466 mmol) were heated to reflux in dichloromethane (10 ml) for 2 hours. Cyclobutylamine (99 mg, 1.398 mmol) was added and the reaction stirred overnight. The reaction mixture was washed with water, dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by acidic reverse phase HPLC to afford the title compound (20 mg).

reactant | 3-((4-(4-Amino-3-chlorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.466 mmol, 200 mg | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)Cl | C23H29ClN4O2
reactant | 4-nitrophenylchloroformate | 0.466 mmol, 94 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | Cyclobutylamine | 1.398 mmol, 99 mg | C1(CCC1)N | C4H9N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(3-chloro-4-(3-cyclobutylureido)benzoyl)piperazin-1-yl)methyl)benzamide | 20 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC(=C(C=C1)NC(=O)NC1CCC1)Cl)=O)=O | C28H36ClN5O3
